### PR TITLE
[Merged by Bors] - feat: port Order.SuccPred.Limit

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
don't know how to make `apply proof_irrel_heq` work

**Comment by arienmalec** [comment]
> don't know how to make `apply proof_irrel_heq` work

`congr` being too aggressive.

**Comment by arienmalec** [comment]
lgtm

File: Mathlib/Order/SuccPred/Limit.lean [hunk 1]
```diff
@@ -0,0 +1,435 @@
...
+
+/-- A successor limit is a value that doesn't cover any other.
+
+It's so named because in a successor order, a successor limit can't be the successor of anything
+smaller. -/
+def IsSuccLimit (a : α) : Prop :=
+  ∀ b, ¬b ⋖ a
+#align order.is_succ_limit Order.IsSuccLimit
+
+theorem not_is_succ_limit_iff_exists_covby (a : α) : ¬IsSuccLimit a ↔ ∃ b, b ⋖ a := by
```
Comment (ChrisHughes24) [inline Mathlib/Order/SuccPred/Limit.lean:49]:
```suggestion
theorem not_isSuccLimit_iff_exists_covby (a : α) : ¬IsSuccLimit a ↔ ∃ b, b ⋖ a := by
```
Here and everywhere else

Comment (mo271) [reply Mathlib/Order/SuccPred/Limit.lean]: done

File: Mathlib/Order/SuccPred/Limit.lean [hunk 2]
```diff
@@ -0,0 +1,434 @@
...
+
+section LT
+
+variable [LT α]
+
+/-- A successor limit is a value that doesn't cover any other.
+
+It's so named because in a successor order, a successor limit can't be the successor of anything
+smaller. -/
+def isSuccLimit (a : α) : Prop :=
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:45]:
```suggestion
def IsSuccLimit (a : α) : Prop :=
```

File: Mathlib/Order/SuccPred/Limit.lean [hunk 3]
```diff
@@ -0,0 +1,434 @@
...
+#align is_min.is_succ_limit Order.IsMin.isSuccLimit
+
+theorem isSuccLimit_bot [OrderBot α] : isSuccLimit (⊥ : α) :=
+  IsMin.isSuccLimit isMin_bot
+#align order.is_succ_limit_bot Order.isSuccLimit_bot
+
+variable [SuccOrder α]
+
+protected theorem isSuccLimit.isMax (h : isSuccLimit (succ a)) : IsMax a :=
+  by
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:74]:
```suggestion
protected theorem isSuccLimit.isMax (h : isSuccLimit (succ a)) : IsMax a := by
```
And the same throughout

File: Mathlib/Order/SuccPred/Limit.lean [hunk 4]
```diff
@@ -0,0 +1,434 @@
...
+    (hl : ∀ a, isSuccLimit a → C a) : C b :=
+  by
+  by_cases hb : isSuccLimit b
+  · exact hl b hb
+  · have H := Classical.choose_spec (not_isSuccLimit_iff.1 hb)
+    rw [← H.2]
+    exact hs _ H.1
+#align order.is_succ_limit_rec_on Order.isSuccLimitRecOn
+
+theorem isSuccLimit_rec_on_limit (hs : ∀ a, ¬IsMax a → C (succ a)) (hl : ∀ a, isSuccLimit a → C a)
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:183]:
```suggestion
theorem isSuccLimitRecOn_limit (hs : ∀ a, ¬IsMax a → C (succ a)) (hl : ∀ a, isSuccLimit a → C a)
```

File: Mathlib/Order/SuccPred/Limit.lean [hunk 5]
```diff
@@ -0,0 +1,434 @@
...
+    (hb : isSuccLimit b) : @isSuccLimitRecOn α _ _ C b hs hl = hl b hb := by
+  classical exact dif_pos hb
+#align order.is_succ_limit_rec_on_limit Order.isSuccLimit_rec_on_limit
+
+theorem isSuccLimit_rec_on_succ' (hs : ∀ a, ¬IsMax a → C (succ a)) (hl : ∀ a, isSuccLimit a → C a)
+    {b : α} (hb : ¬IsMax b) : @isSuccLimitRecOn α _ _ C (succ b) hs hl = hs b hb :=
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:189]:
```suggestion
theorem isSuccLimitRecOn_succ' (hs : ∀ a, ¬IsMax a → C (succ a)) (hl : ∀ a, isSuccLimit a → C a)
    {b : α} (hb : ¬IsMax b) : @isSuccLimitRecOn α _ _ C (succ b) hs hl = hs b hb :=
```
and so on

File: Mathlib/Order/SuccPred/Limit.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/Order/SuccPred/Limit.lean]: all done

File: Mathlib/Order/SuccPred/Limit.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/Order/SuccPred/Limit.lean]: Changed this and the analogous `IsPredLimit` and all theorems containg that name and a dot, like `isSuccLimit.isMax => IsSuccLimit.isMax`

File: Mathlib/Order/SuccPred/Limit.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/Order/SuccPred/Limit.lean]: done, also for analogous 'PredLimit`

File: Mathlib/Order/SuccPred/Limit.lean (hunk 5 above)
Comment (mo271) [reply Mathlib/Order/SuccPred/Limit.lean]: done, also for analogous 'PredLimit`

File: Mathlib/Order/SuccPred/Limit.lean [hunk 6]
```diff
@@ -0,0 +1,418 @@
...
+
+theorem not_isPredLimit_iff_exists_covby (a : α) : ¬IsPredLimit a ↔ ∃ b, a ⋖ b := by
+  simp [IsPredLimit]
+#align order.not_is_pred_limit_iff_exists_covby Order.not_isPredLimit_iff_exists_covby
+
+theorem isPredLimit_of_dense [DenselyOrdered α] (a : α) : IsPredLimit a := fun _ => not_covby
+#align order.is_pred_limit_of_dense Order.isPredLimit_of_dense
+
+@[simp]
+theorem isSuccLimit_to_dual_iff : IsSuccLimit (toDual a) ↔ IsPredLimit a := by
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:259]:
```suggestion
theorem isSuccLimit_toDual_iff : IsSuccLimit (toDual a) ↔ IsPredLimit a := by
```

File: Mathlib/Order/SuccPred/Limit.lean [hunk 7]
```diff
@@ -0,0 +1,418 @@
...
+  simp [IsSuccLimit, IsPredLimit]
+#align order.is_succ_limit_to_dual_iff Order.isSuccLimit_to_dual_iff
+
+@[simp]
+theorem isPredLimit_to_dual_iff : IsPredLimit (toDual a) ↔ IsSuccLimit a := by
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:264]:
```suggestion
@[simp]
theorem isPredLimit_toDual_iff : IsPredLimit (toDual a) ↔ IsSuccLimit a := by
```

File: Mathlib/Order/SuccPred/Limit.lean [hunk 8]
```diff
@@ -0,0 +1,418 @@
...
+-/
+import Mathlib.Order.SuccPred.Basic
+import Mathlib.Order.BoundedOrder
+
+/-!
+# Successor and predecessor limits
+
+We define the predicate `Order.isSuccLimit` for "successor limits", values that don't cover any
+others. They are so named since they can't be the successors of anything smaller. We define
+`Order.isSuccLimit` analogously, and prove basic results.
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:19]:
```suggestion
We define the predicate `Order.IsSuccLimit` for "successor limits", values that don't cover any
others. They are so named since they can't be the successors of anything smaller. We define
`Order.IsPredLimit` analogously, and prove basic results.
```

File: Mathlib/Order/SuccPred/Limit.lean [hunk 9]
```diff
@@ -0,0 +1,418 @@
...
+
+## Todo
+
+The plan is to eventually replace `Ordinal.IsLimit` and `Cardinal.IsLimit` with the common
+predicate `Order.isSuccLimit`.
```
Comment (dupuisf) [inline Mathlib/Order/SuccPred/Limit.lean:24]:
```suggestion
The plan is to eventually replace `Ordinal.IsLimit` and `Cardinal.IsLimit` with the common
predicate `Order.IsSuccLimit`.
```

**Review by dupuisf — COMMENTED** [review]
Thanks! Just a few more corrections and we're good to go.

bors d+

**Comment by mo271** [comment]
thanks, @dupuisf!
